US07820680B2
Step 1: 1-(2-Propenyl)-4-tert-butyloxycarbonyl-2-piperazinone
To a stirred solution of 4-tert-butyloxycarbonyl-2-piperazinone (10 g, 50 mmol) and allyl bromide (7.25 g, 60 mmol) in DMF (75 mL) at 0° C. was added sodium hydride (2.4 g of a 60% suspension in mineral oil, 60 mmol) in portions over a period of 10 min. The mixture was allowed to warm to ambient temperature and stirred for 18 h. The solvent was removed in vacuo and the residue was partitioned between EtOAc and water. The EtOAc layer was dried (MgSO4), filtered, and the solvent was removed in vacuo. The residue was purified by silica gel column chromatography using a gradient elution of 33%, 40%, 50%, 60% EtOAc in hexanes. Concentration of product-containing fractions in vacuo gave the title compound as an oil. HPLC RT=2.80 min (Method A), ES MS (M+H)=241, 1H NMR (400 MHz, CDCl3) δ 5.76 (ddt, 1H), 5.2 (overlapping doublets, 2H), 4.10 (s, 2H), 4.04 (d, J=6 Hz, 2H), 3.64 (t, J=7 Hz, 2 H), 3.50 (t, J=7 Hz, 2H), 1.47, (s, 9H).

reactant | 4-tert-butyloxycarbonyl-2-piperazinone | 50 mmol, 10 g | C(C)(C)(C)OC(=O)N1CC(NCC1)=O | C9H16N2O3
reactant | allyl bromide | 60 mmol, 7.25 g | C(C=C)Br | C3H5Br
reactant | sodium hydride | [H-].[Na+]
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | 1-(2-Propenyl)-4-tert-butyloxycarbonyl-2-piperazinone | C(C=C)N1C(CN(CC1)C(=O)OC(C)(C)C)=O | C12H20N2O3
